* PEX produced on Sun Aug 30 02:50:36 PM CEST 2026 using /foss/tools/sak/sak-pex.sh with m=3 and s=1 (extresist threshold=1000 mOhm, minres=100 mOhm, mindelay=0 ps)
* NGSPICE file created from sparx_powdet_sbd_pex.ext - technology: ihp-sg13g2

.subckt sparx_powdet_sbd_pex vout vref vdd rfin vss
X0 vout.t6 dw_8122_4047# vdd.t16 vdd.t0 sg13_lv_pmos ad=0.95p pd=5.38u as=0.95p ps=5.38u w=5u l=0.13u
X1 a_8474_2725# vss.t42 cap_cmim l=10u w=10u
X2 vout.t18 dw_8122_4047# vss.t13 vss.t12 sg13_lv_nmos ad=0.475p pd=2.88u as=0.475p ps=2.88u w=2.5u l=0.13u
X3 vdd vss.t44 cap_cmim l=10u w=10u
X4 vdd vss.t44 cap_cmim l=10u w=10u
X5 vss.t21 dw_8122_4047# vout.t14 vss.t22 sg13_lv_nmos ad=0.475p pd=2.88u as=0.475p ps=2.88u w=2.5u l=0.13u
X6 a_8474_2725# vss.t42 cap_cmim l=10u w=10u
X7 vdd.t28 vdd.t26 vdd.t22 vdd.t0 sg13_lv_pmos ad=0.95p pd=5.38u as=0 ps=0 w=5u l=0.13u
X8 a_8474_2725# vss.t42 cap_cmim l=10u w=10u
X9 a_8474_2725# vss.t42 cap_cmim l=10u w=10u
X10 vss.t3 dw_8122_4047# vout.t15 vss.t19 sg13_lv_nmos ad=0.475p pd=2.88u as=0.475p ps=2.88u w=2.5u l=0.13u
X11 vout.t4 dw_8122_4047# vdd.t6 vdd.t0 sg13_lv_pmos ad=0.95p pd=5.38u as=0.95p ps=5.38u w=5u l=0.13u
X12 vdd vss.t44 cap_cmim l=10u w=10u
X13 vdd vss.t44 cap_cmim l=10u w=10u
X14 a_8474_2725# vss.t42 cap_cmim l=10u w=10u
X15 a_8474_2725# vss.t42 cap_cmim l=10u w=10u
X16 vout.t12 dw_8122_4047# vss.t33 vss.t32 sg13_lv_nmos ad=0.475p pd=2.88u as=0.475p ps=2.88u w=2.5u l=0.13u
X17 vout.t3 dw_8122_4047# vdd.t4 vdd.t0 sg13_lv_pmos ad=0.95p pd=5.38u as=0.95p ps=5.38u w=5u l=0.13u
X18 vdd.t1 dw_9390_4047# vref.t0 vdd.t0 sg13_lv_pmos ad=0.95p pd=5.38u as=0.95p ps=5.38u w=5u l=0.13u
X19 vout.t2 dw_8122_4047# vdd.t20 vdd.t0 sg13_lv_pmos ad=0.95p pd=5.38u as=0.95p ps=5.38u w=5u l=0.13u
X20 vss.t5 dw_8122_4047# vout.t5 vss.t4 sg13_lv_nmos ad=0.475p pd=2.88u as=0.475p ps=2.88u w=2.5u l=0.13u
X21 vout.t9 dw_8122_4047# vss.t1 vss.t18 sg13_lv_nmos ad=0.475p pd=2.88u as=0.475p ps=2.88u w=2.5u l=0.13u
X22 vdd vss.t44 cap_cmim l=9u w=6.8u
X23 vdd vss.t44 cap_cmim l=10u w=10u
X24 vdd vss.t42 cap_cmim l=10u w=10u
X25 a_8474_2725# vss.t42 cap_cmim l=10u w=10u
X26 vout.t1 dw_8122_4047# vdd.t18 vdd.t0 sg13_lv_pmos ad=0.95p pd=5.38u as=0.95p ps=5.38u w=5u l=0.13u
X27 a_8474_2725# vss.t42 cap_cmim l=10u w=10u
X28 vss.t27 dw_8122_4047# vout.t11 vss.t28 sg13_lv_nmos ad=0.475p pd=2.88u as=0.475p ps=2.88u w=2.5u l=0.13u
X29 vout.t13 dw_8122_4047# vss.t16 vss.t15 sg13_lv_nmos ad=0.475p pd=2.88u as=0.475p ps=2.88u w=2.5u l=0.13u
X30 a_8474_2725# vss.t42 cap_cmim l=10u w=10u
X31 vdd vss.t44 cap_cmim l=10u w=10u
X32 a_8474_2725# vss.t42 cap_cmim l=10u w=10u
X33 a_8474_2725# vss.t42 cap_cmim l=10u w=10u
X34 vss.t24 dw_8122_4047# vout.t10 vss.t25 sg13_lv_nmos ad=0.475p pd=2.88u as=0.475p ps=2.88u w=2.5u l=0.13u
X35 vdd vss.t44 cap_cmim l=10u w=10u
X36 a_8474_2725# vss.t42 cap_cmim l=10u w=10u
X37 a_8474_2725# vss.t42 cap_cmim l=10u w=10u
X38 rfin a_8232_4131# cap_cmim l=10u w=10u
X39 a_8474_2725# vss.t42 cap_cmim l=10u w=10u
X40 vdd vss.t44 cap_cmim l=10u w=10u
X41 a_8474_2725# vdd.t23 vss.t41 rhigh l=2u w=0.5u
X42 vout.t8 dw_8122_4047# vdd.t8 vdd.t0 sg13_lv_pmos ad=0.95p pd=5.38u as=0.95p ps=5.38u w=5u l=0.13u
X43 a_8232_4131# dw_8122_4047# vss schottky_nbl1 l=1.2u w=2.655u
X44 vdd.t14 dw_8122_4047# vout.t6 vdd.t0 sg13_lv_pmos ad=0.95p pd=5.38u as=0.95p ps=5.38u w=5u l=0.13u
X45 vss.t10 dw_8122_4047# vout.t18 vss.t11 sg13_lv_nmos ad=0.475p pd=2.88u as=0.475p ps=2.88u w=2.5u l=0.13u
X46 vdd vss.t44 cap_cmim l=10u w=10u
X47 vdd.t2 dw_8122_4047# vout.t7 vdd.t0 sg13_lv_pmos ad=0.95p pd=5.38u as=0.95p ps=5.38u w=5u l=0.13u
X48 a_8474_2725# vss.t42 cap_cmim l=10u w=10u
X49 vout.t15 dw_8122_4047# vss.t21 vss.t20 sg13_lv_nmos ad=0.475p pd=2.88u as=0.475p ps=2.88u w=2.5u l=0.13u
X50 vss.t7 dw_8122_4047# vout.t17 vss.t8 sg13_lv_nmos ad=0.475p pd=2.88u as=0.475p ps=2.88u w=2.5u l=0.13u
X51 vout.t16 dw_8122_4047# vdd.t22 vdd.t0 sg13_lv_pmos ad=0.95p pd=5.38u as=0.95p ps=5.38u w=5u l=0.13u
X52 a_9398_3295# a_8474_2725# vss.t74 rsil l=2.5u w=0.5u
X53 vref.t1 dw_9390_4047# vss.t3 vss.t2 sg13_lv_nmos ad=0.475p pd=2.88u as=0.475p ps=2.88u w=2.5u l=0.13u
X54 vdd vss.t44 cap_cmim l=10u w=10u
X55 vss.t30 dw_8122_4047# vout.t12 vss.t31 sg13_lv_nmos ad=0.475p pd=2.88u as=0.475p ps=2.88u w=2.5u l=0.13u
X56 dw_9390_4047# vref.t2 vss.t34 rppd l=1.5u w=0.5u
X57 vdd vss.t44 cap_cmim l=10u w=10u
X58 vdd.t3 dw_8122_4047# vout.t3 vdd.t0 sg13_lv_pmos ad=0.95p pd=5.38u as=0.95p ps=5.38u w=5u l=0.13u
X59 vdd vss.t42 cap_cmim l=10u w=10u
X60 vout.t0 dw_8122_4047# vdd.t1 vdd.t0 sg13_lv_pmos ad=0.95p pd=5.38u as=0.95p ps=5.38u w=5u l=0.13u
X61 vss.t37 vss.t35 vss.t5 vss.t36 sg13_lv_nmos ad=0.85p pd=5.68u as=0 ps=0 w=2.5u l=0.13u
X62 a_8474_2725# vss.t42 cap_cmim l=10u w=10u
X63 vdd.t18 dw_8122_4047# vout.t2 vdd.t0 sg13_lv_pmos ad=0.95p pd=5.38u as=0.95p ps=5.38u w=5u l=0.13u
X64 vout.t19 dw_8122_4047# vdd.t10 vdd.t0 sg13_lv_pmos ad=0.95p pd=5.38u as=0.95p ps=5.38u w=5u l=0.13u
X65 vss.t16 dw_8122_4047# vout.t9 vss.t17 sg13_lv_nmos ad=0.475p pd=2.88u as=0.475p ps=2.88u w=2.5u l=0.13u
X66 vdd vss.t42 cap_cmim l=10u w=10u
X67 vout.t20 dw_8122_4047# vss.t34 rppd l=1.5u w=0.5u
X68 vdd vss.t44 cap_cmim l=10u w=10u
X69 a_8474_2725# vss.t42 cap_cmim l=10u w=10u
X70 vdd vss.t44 cap_cmim l=10u w=10u
X71 a_8474_2725# vss.t42 cap_cmim l=10u w=10u
X72 vdd.t16 dw_8122_4047# vout.t1 vdd.t0 sg13_lv_pmos ad=0.95p pd=5.38u as=0.95p ps=5.38u w=5u l=0.13u
X73 a_8474_2725# vss.t42 cap_cmim l=10u w=10u
X74 vss.t13 dw_8122_4047# vout.t13 vss.t14 sg13_lv_nmos ad=0.475p pd=2.88u as=0.475p ps=2.88u w=2.5u l=0.13u
X75 a_8474_2725# vss.t42 cap_cmim l=10u w=10u
X76 vdd vss.t44 cap_cmim l=10u w=10u
X77 a_8474_2725# vss.t42 cap_cmim l=10u w=10u
X78 vout.t14 dw_8122_4047# vss.t24 vss.t23 sg13_lv_nmos ad=0.475p pd=2.88u as=0.475p ps=2.88u w=2.5u l=0.13u
X79 a_8474_2725# vss.t42 cap_cmim l=10u w=10u
X80 vdd vss.t44 cap_cmim l=10u w=10u
X81 vdd.t6 dw_8122_4047# vout.t8 vdd.t0 sg13_lv_pmos ad=0.95p pd=5.38u as=0.95p ps=5.38u w=5u l=0.13u
X82 vdd vss.t44 cap_cmim l=10u w=10u
X83 vss.t33 vss.t38 vss.t40 vss.t39 sg13_lv_nmos ad=0.475p pd=2.88u as=0 ps=0 w=2.5u l=0.13u
X84 a_8474_2725# vss.t42 cap_cmim l=10u w=10u
X85 vdd vss.t44 cap_cmim l=9u w=6.8u
X86 vout.t7 dw_8122_4047# vdd.t14 vdd.t0 sg13_lv_pmos ad=0.95p pd=5.38u as=0.95p ps=5.38u w=5u l=0.13u
X87 vdd vss.t44 cap_cmim l=10u w=10u
X88 vdd.t4 dw_8122_4047# vout.t4 vdd.t0 sg13_lv_pmos ad=0.95p pd=5.38u as=0.95p ps=5.38u w=5u l=0.13u
X89 vout.t17 dw_8122_4047# vss.t10 vss.t9 sg13_lv_nmos ad=0.475p pd=2.88u as=0.475p ps=2.88u w=2.5u l=0.13u
X90 a_8474_2725# vss.t42 cap_cmim l=10u w=10u
X91 vref.t0 dw_9390_4047# vdd.t2 vdd.t0 sg13_lv_pmos ad=0.95p pd=5.38u as=0.95p ps=5.38u w=5u l=0.13u
X92 vout.t5 dw_8122_4047# vss.t7 vss.t6 sg13_lv_nmos ad=0.475p pd=2.88u as=0.475p ps=2.88u w=2.5u l=0.13u
X93 vdd.t20 dw_8122_4047# vout.t16 vdd.t0 sg13_lv_pmos ad=0.95p pd=5.38u as=0.95p ps=5.38u w=5u l=0.13u
X94 vdd vss.t42 cap_cmim l=10u w=10u
X95 vdd vss.t44 cap_cmim l=10u w=10u
X96 vdd vss.t44 cap_cmim l=10u w=10u
X97 vdd vss.t44 cap_cmim l=10u w=10u
X98 vss.t1 dw_9390_4047# vref.t1 vss.t0 sg13_lv_nmos ad=0.475p pd=2.88u as=0.475p ps=2.88u w=2.5u l=0.13u
X99 a_8474_2725# vss.t42 cap_cmim l=10u w=10u
X100 a_8474_2725# vss.t42 cap_cmim l=10u w=10u
X101 vout.t11 dw_8122_4047# vss.t30 vss.t29 sg13_lv_nmos ad=0.475p pd=2.88u as=0.475p ps=2.88u w=2.5u l=0.13u
X102 a_8474_2725# vss.t42 cap_cmim l=10u w=10u
X103 a_8474_2725# vss.t42 cap_cmim l=10u w=10u
X104 vdd vss.t44 cap_cmim l=10u w=10u
X105 vdd.t3 vdd.t24 vdd.t25 vdd.t0 sg13_lv_pmos ad=1.7p pd=10.68u as=0 ps=0 w=5u l=0.13u
X106 a_8474_2725# vss.t42 cap_cmim l=10u w=10u
X107 vdd vss.t44 cap_cmim l=10u w=10u
X108 vdd vss.t44 cap_cmim l=10u w=10u
X109 vout.t10 dw_8122_4047# vss.t27 vss.t26 sg13_lv_nmos ad=0.475p pd=2.88u as=0.475p ps=2.88u w=2.5u l=0.13u
X110 vdd.t10 dw_8122_4047# vout.t0 vdd.t0 sg13_lv_pmos ad=0.95p pd=5.38u as=0.95p ps=5.38u w=5u l=0.13u
X111 a_8232_4131# a_8474_2725# vss.t105 rsil l=2.5u w=0.5u
X112 a_9398_3295# dw_9390_4047# vss schottky_nbl1 l=1.2u w=2.655u
X113 a_8474_2725# vss.t42 cap_cmim l=10u w=10u
X114 vdd vss.t44 cap_cmim l=10u w=10u
X115 vdd.t8 dw_8122_4047# vout.t19 vdd.t0 sg13_lv_pmos ad=0.95p pd=5.38u as=0.95p ps=5.38u w=5u l=0.13u
R0 vref.n1 vref.t2 19.5005
R1 vref.n0 vref.t1 12.4291
R2 vref.n0 vref.t0 7.22529
R3 vref.n1 vref.n0 2.2505
R4 vref vref.n1 0.4339
R5 vout vout.t20 21.7505
R6 vout.n8 vout.t12 6.4619
R7 vout.n9 vout.t5 6.3967
R8 vout.n8 vout.t11 6.39662
R9 vout.n1 vout.t10 6.39662
R10 vout.n2 vout.t14 6.39662
R11 vout.n0 vout.t15 6.40591
R12 vout.n9 vout.t9 6.39662
R13 vout.n9 vout.t13 6.39662
R14 vout.n9 vout.t18 6.39662
R15 vout.n9 vout.t17 6.39662
R16 vout.n3 vout.t16 3.54603
R17 vout.n7 vout.t8 3.51179
R18 vout.n7 vout.t4 3.51179
R19 vout.n7 vout.t3 3.51175
R20 vout.n3 vout.t2 3.51168
R21 vout.n6 vout.t7 3.5116
R22 vout.n7 vout.t0 3.5116
R23 vout.n7 vout.t19 3.5116
R24 vout.n5 vout.t6 3.51145
R25 vout.n4 vout.t1 3.51081
R26 vout vout.n9 0.154808
R27 vout vout.n7 0.154603
R28 vout.n7 vout.n6 0.0926389
R29 vout.n1 vout.n8 0.06578
R30 vout.n2 vout.n0 0.0528614
R31 vout.n2 vout.n1 0.06578
R32 vout.n4 vout.n3 0.0348908
R33 vout.n5 vout.n4 0.0348908
R34 vout.n6 vout.n5 0.0348908
R35 vout.n9 vout.n0 0.113825
R36 vdd vdd.t23 19.16
R37 vdd.n7 vdd.t25 3.5756
R38 vdd.n11 vdd.t28 3.57545
R39 vdd.n3 vdd.t1 3.53186
R40 vdd.n8 vdd.t4 3.53179
R41 vdd.n10 vdd.t8 3.53179
R42 vdd.n0 vdd.t14 3.53179
R43 vdd.n9 vdd.t6 3.53172
R44 vdd.n14 vdd.t16 3.53171
R45 vdd.n3 vdd.t2 3.53162
R46 vdd.n7 vdd.t3 3.5316
R47 vdd.n1 vdd.t10 3.5316
R48 vdd.n13 vdd.t18 3.5316
R49 vdd.n11 vdd.t22 3.53093
R50 vdd.n12 vdd.t20 3.53084
R51 vdd.n4 vdd.t26 11.9284
R52 vdd.t24 vdd.n6 11.9179
R53 vdd.n5 vdd.n4 0.0404234
R54 vdd.n5 vdd.n6 0.0519828
R55 vdd.n5 vdd.t0 0.112342
R56 vdd.n6 vdd.n2 0.854047
R57 vdd.n12 vdd.n11 0.0885
R58 vdd.n13 vdd.n12 0.0885
R59 vdd.n14 vdd.n13 0.0885
R60 vdd.n0 vdd.n14 0.0885
R61 vdd.n3 vdd.n0 0.0885
R62 vdd.n3 vdd.n1 0.0885
R63 vdd.n1 vdd.n10 0.0885
R64 vdd.n10 vdd.n9 0.0885
R65 vdd.n9 vdd.n8 0.0885
R66 vdd.n8 vdd.n7 0.0885
R67 vdd.n2 vdd.n4 0.837951
R68 vdd.n3 vdd 0.444066
R69 vdd.n3 vdd.n2 0.174214
R70 vss.n9 vss.n60 5244.95
R71 vss.n59 vss.t74 5004.79
R72 vss.n60 vss.n59 3732.56
R73 vss.n57 vss.n56 2460.47
R74 vss.n47 vss.t41 2101.74
R75 vss.n60 vss.t41 1178.78
R76 vss.n12 vss.n59 15039.9
R77 vss.n47 vss.n7 817.217
R78 vss.n48 vss.n47 735.946
R79 vss.n56 vss.t105 553.63
R80 vss.n57 vss.n12 446.913
R81 vss.t105 vss.n55 304.267
R82 vss.t74 vss.n11 304.267
R83 vss.n57 vss.n54 198.214
R84 vss.n45 vss.n39 192.857
R85 vss.n55 vss.n39 67.6152
R86 vss.n11 vss.n39 67.6152
R87 vss.n49 vss.n44 31.2294
R88 vss.n50 vss.n44 31.2294
R89 vss.n50 vss.n43 31.2294
R90 vss.n51 vss.n43 31.2294
R91 vss.n51 vss.n42 31.2294
R92 vss.n52 vss.n42 31.2294
R93 vss.n52 vss.n41 31.2294
R94 vss.n53 vss.n41 31.2294
R95 vss.n53 vss.n40 31.2294
R96 vss.t0 vss.t2 30.5029
R97 vss.n9 vss.n7 0.00817912
R98 vss.n7 vss.n17 1.12193
R99 vss.n8 vss.t36 7.01132
R100 vss.n24 vss.t32 17.644
R101 vss.n31 vss.t29 17.644
R102 vss.t26 vss.n25 17.644
R103 vss.n33 vss.t23 17.644
R104 vss.n27 vss.t20 17.644
R105 vss.n28 vss.t14 17.644
R106 vss.t11 vss.n36 17.644
R107 vss.n29 vss.t8 17.644
R108 vss.n38 vss.t4 17.644
R109 vss.n58 vss.n13 8.50058
R110 vss.n13 vss.n12 1.65298
R111 vss.n13 vss.n54 17.0005
R112 vss.n12 vss.n45 17.0005
R113 vss.n54 vss.n40 15.6239
R114 vss.n49 vss.n45 15.6061
R115 vss.t34 vss.t17 14.6536
R116 vss.t31 vss.n24 12.8594
R117 vss.t28 vss.n31 12.8594
R118 vss.t25 vss.n25 12.8594
R119 vss.n33 vss.t22 12.8594
R120 vss.n27 vss.t19 12.8594
R121 vss.n35 vss.t18 12.8594
R122 vss.n28 vss.t15 12.8594
R123 vss.n36 vss.t12 12.8594
R124 vss.t9 vss.n29 12.8594
R125 vss.n38 vss.t6 12.8594
R126 vss.n30 vss.t31 12.1076
R127 vss.t22 vss.n23 12.1076
R128 vss.t12 vss.n20 12.1076
R129 vss.n37 vss.t9 12.1076
R130 vss.t6 vss.n19 12.1076
R131 vss.t19 vss.n22 12.1071
R132 vss.n26 vss.t25 12.1071
R133 vss.n32 vss.t28 12.1071
R134 vss.t39 vss.n17 7.01074
R135 vss.t18 vss.n34 12.1071
R136 vss.t15 vss.n21 12.1071
R137 vss.n61 vss.t35 11.2187
R138 vss.n18 vss.t38 11.2187
R139 vss.n58 vss.n57 10.168
R140 vss.n13 vss.n48 8.501
R141 vss.n7 vss.n38 8.5005
R142 vss.n7 vss.n36 8.5005
R143 vss.n7 vss.n35 8.5005
R144 vss.n7 vss.n33 8.5005
R145 vss.n7 vss.n31 8.5005
R146 vss.n7 vss.n24 8.5005
R147 vss.n7 vss.n25 8.5005
R148 vss.n7 vss.n27 8.5005
R149 vss.n7 vss.n28 8.5005
R150 vss.n7 vss.n29 8.5005
R151 vss.n12 vss.n11 5.67123
R152 vss.n14 vss.n16 1.14125
R153 vss.n16 vss.n9 4.17769
R154 vss.n15 vss.n7 2.28851
R155 vss.n32 vss.t26 7.32294
R156 vss.t2 vss.n22 7.32294
R157 vss.n34 vss.t0 7.32294
R158 vss.t17 vss.n21 7.32294
R159 vss.t23 vss.n26 7.32294
R160 vss.t4 vss.n8 8.02557
R161 vss.t8 vss.n19 7.32242
R162 vss.n37 vss.t11 7.32242
R163 vss.t14 vss.n20 7.32242
R164 vss.t29 vss.n30 7.32242
R165 vss.t20 vss.n23 7.32242
R166 vss.n55 vss.n13 5.6686
R167 vss.n14 vss.n7 0.425129
R168 vss.n7 vss.n10 0.0326209
R169 vss.n0 vss.t40 4.80673
R170 vss.n3 vss.t37 4.80673
R171 vss.n0 vss.t33 4.76273
R172 vss.n1 vss.t30 4.76273
R173 vss.n1 vss.t27 4.76273
R174 vss.n2 vss.t24 4.76273
R175 vss.n2 vss.t21 4.76273
R176 vss.n5 vss.t3 4.76273
R177 vss.n5 vss.t1 4.76273
R178 vss.n6 vss.t16 4.76273
R179 vss.n4 vss.t13 4.76273
R180 vss.n4 vss.t10 4.76273
R181 vss.n3 vss.t7 4.76273
R182 vss.n3 vss.t5 4.76273
R183 vss.n48 vss.n46 4.75145
R184 vss.n58 vss.n46 4.75092
R185 vss.n35 vss.t34 2.99093
R186 vss.n7 vss.n19 1.93648
R187 vss.n7 vss.n37 1.93648
R188 vss.n7 vss.n20 1.93648
R189 vss.n7 vss.n21 1.93648
R190 vss.n7 vss.n34 1.93648
R191 vss.n7 vss.n22 1.93648
R192 vss.n7 vss.n23 1.93648
R193 vss.n7 vss.n32 1.93648
R194 vss.n7 vss.n30 1.93648
R195 vss.n17 vss.t32 8.02612
R196 vss.n7 vss.n26 1.93648
R197 vss.n7 vss.n8 1.12198
R198 vss.n12 vss.n46 1.87635
R199 vss.n10 vss.n18 1.38454
R200 vss.n62 vss.n18 1.31765
R201 vss.n56 vss.n13 1.21479
R202 vss.n5 vss.n62 0.714566
R203 vss.n13 vss.n49 0.698466
R204 vss.n13 vss.n50 0.698466
R205 vss.n13 vss.n51 0.698466
R206 vss.n13 vss.n52 0.698466
R207 vss.n12 vss.n41 0.689564
R208 vss.n12 vss.n42 0.689564
R209 vss.n12 vss.n43 0.689564
R210 vss.n12 vss.n44 0.689564
R211 vss.n14 vss.n5 0.528264
R212 vss.n15 vss.n16 0.706241
R213 vss.n13 vss.n53 0.701133
R214 vss.n12 vss.n40 0.690394
R215 vss.t42 vss.n5 0.267474
R216 vss.n62 vss.n7 0.176427
R217 vss.n61 vss.n10 1.40123
R218 vss.n15 vss.n61 0.454099
R219 vss.n5 vss.n2 0.1765
R220 vss.n4 vss.n3 0.1765
R221 vss.n6 vss.n4 0.1765
R222 vss.n2 vss.n1 0.1765
R223 vss.n1 vss.n0 0.1765
R224 vss.n5 vss.n6 0.174214
R225 vss.t42 vss.t44 0.160762
R226 vss vss.n0 0.0005
C0 dw_8122_4047# a_8232_4131# 0.89997f
C1 vref dw_9390_4047# 0.59869f
C2 vout vdd 18.8274f
C3 a_8474_2725# a_9398_2795# 0.02416f
C4 a_8474_2725# dw_9390_4047# 0.05717f
C5 a_9776_11692# vdd 0.0126f
C6 a_8474_2725# a_12042_5786# 0.01902f
C7 vref vdd 1.27003f
C8 a_8474_2725# vdd 2.76819f
C9 vdd dw_9390_4047# 0.68855f
C10 a_8232_4131# rfin 1.20466f
C11 a_8232_4131# a_8474_2795# 0.05211f
C12 vdd a_12042_5786# 0.0653f
C13 a_9398_3295# a_8232_4131# 0.15371f
C14 vref a_9396_11692# 0.04195f
C15 a_8474_2725# a_8232_4131# 0.06078f
C16 a_8232_4131# a_9398_2795# 0.01213f
C17 a_8232_4131# dw_9390_4047# 0.10207f
C18 a_9396_11692# dw_9390_4047# 0.03627f
C19 vout dw_8122_4047# 3.93716f
C20 dw_8122_4047# rfin 0.07528f
C21 a_9776_11692# dw_8122_4047# 0.03656f
C22 vref dw_8122_4047# 0.6228f
C23 a_8474_2725# dw_8122_4047# 0.11747f
C24 dw_8122_4047# dw_9390_4047# 1.66491f
C25 vout a_9776_11692# 0.03993f
C26 a_9398_3295# rfin 0.05178f
C27 vdd dw_8122_4047# 5.72604f
C28 vout vref 2.0311f
C29 vout a_8474_2725# 1.11736f
C30 vout dw_9390_4047# 0.21066f
C31 a_8474_2725# rfin 0.0265f
C32 rfin dw_9390_4047# 0.0415f
C33 a_8474_2725# a_8474_2795# 0.02075f
C34 a_8474_2725# a_9398_3295# 0.02051f
C35 a_9398_3295# a_9398_2795# 0.02622f
C36 a_9398_3295# dw_9390_4047# 0.39405f
C37 a_8474_2725# vref 0.19179f
C38 vref vss 5.02923f
C39 vout vss 28.86927f
C40 a_8232_4131# vss 0.1611f
C41 dw_9390_4047# vss 0.90928f
C42 vss.t42 vss 57.02948f
C43 vss.t44 vss 85.40701f
C44 vdd.n0 vss 0.01157f
C45 vdd.n1 vss 0.01157f
C46 vdd.n2 vss 0.04753f
C47 vdd.n3 vss 0.19403f
C48 vdd.n4 vss 0.03609f
C49 vdd.n5 vss 0.08528f
C50 vdd.n6 vss 0.03588f
C51 vdd.t1 vss 2.59563f
C52 vdd.t10 vss 0.01355f
C53 vdd.t8 vss 0.01355f
C54 vdd.t6 vss 0.01355f
C55 vdd.t4 vss 0.01355f
C56 vdd.t3 vss 0.01861f
C57 vdd.t25 vss 0.01788f
C58 vdd.n7 vss 0.02287f
C59 vdd.n8 vss 0.01157f
C60 vdd.n9 vss 0.01157f
C61 vdd.n10 vss 0.01157f
C62 vdd.t0 vss 0.82161f
C63 vdd.t2 vss 0.05953f
C64 vdd.t14 vss 3.18063f
C65 vdd.t16 vss 5.86965f
C66 vdd.t18 vss 0.01355f
C67 vdd.t20 vss 0.01355f
C68 vdd.t22 vss 0.01862f
C69 vdd.t28 vss 0.01789f
C70 vdd.n11 vss 0.02287f
C71 vdd.n12 vss 0.01157f
C72 vdd.n13 vss 0.01157f
C73 vdd.n14 vss 0.01157f
C74 vdd.t23 vss 0.14061f
C75 vout.n0 vss 0.58697f
C76 vout.n1 vss 0.35382f
C77 vout.n2 vss 0.84176f
C78 vout.t16 vss 0.43984f
C79 vout.t2 vss 0.43468f
C80 vout.n3 vss 1.20363f
C81 vout.t1 vss 0.47857f
C82 vout.n4 vss 0.67633f
C83 vout.t6 vss 9.41402f
C84 vout.n5 vss 0.67635f
C85 vout.t7 vss 0.43468f
C86 vout.n6 vss 1.26312f
C87 vout.t4 vss 0.43467f
C88 vout.t19 vss 0.43468f
C89 vout.t0 vss 0.43468f
C90 vout.t8 vss 0.43467f
C91 vout.t3 vss 0.43467f
C92 vout.n7 vss 4.72619f
C93 vout.t20 vss 0.15257f
C94 vout.t17 vss 0.2206f
C95 vout.t13 vss 0.2206f
C96 vout.t15 vss 0.22124f
C97 vout.t14 vss 0.2206f
C98 vout.t10 vss 0.2206f
C99 vout.t11 vss 0.2206f
C100 vout.t12 vss 0.22346f
C101 vout.n8 vss 0.6382f
C102 vout.t9 vss 0.2206f
C103 vout.t18 vss 0.2206f
C104 vout.t5 vss 0.2206f
C105 vout.n9 vss 4.02988f
C106 vref.t0 vss 3.10325f
C107 vref.t1 vss 0.21934f
C108 vref.n0 vss 1.17682f
C109 vref.t2 vss 0.14147f
C110 vref.n1 vss 1.46361f
.ends

